US05159105
Preparation of F5S(CF2)4SO3Li
A 10-gram mixture of F5S(CF2)4SO2F (47.5 wt %) and cyclo--SF4C4F7SO2F (52 wt %) was charged to a flask containing LiOH H2O (2.3 g) slurried in 30 g methanol. The reaction mixture was refluxed 18 hrs and then cooled to room temperature. The LiF was then filtered away. The cake was washed with an additional 30 mL methanol. The filtrate was placed in a dish and placed in an oven at 80° C. overnight. A total of 5.5 g of lithium salt, an off-white solid, was removed from the dish. IR analysis of the solid was consistant for the desired lithium salt: F5S(CF2)4SO3Li.

reactant | F5S(CF2)4SO2F | S(F)(F)(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)S(=O)(=O)F | C4F14O2S2
reactant | LiOH H2O | 2.3 g | O[Li].O
solvent | methanol | 30 g | CO | CH4O
product | F5S(CF2)4SO3Li | S(F)(F)(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)S(=O)(=O)O[Li] | InChI=1S/C4HF13O3S2.Li/c5-1(6,3(9,10)21(18,19)20)2(7,8)4(11,12)22(13,14,15,16)17;/h(H,18,19,20);/q;+1/p-1
